* This is the potentiometer
*
*  1---/\/\/\/---2
*        |
*        3
*
.SUBCKT pot-alog 1 2 3
.param w=limit(wiper,1m,.999)
R0 1 3 {Rtot*log(1-w)}
R1 3 2 {Rtot*log(w)}
.ENDS
